US06916819B2
A mixture of 1-Ethyl-2-{[2-(3-fluorophenyl)-pyrazol-3-yl]methyl}-5-acetyl-1H-benzimidazole (23 mg), methoxylamine hydrochloride (15 mg, 3 eq.), and sodium acetate (15 mg, 3 eq.) in methanol (1 mL) is stirred at room temperature overnight. The solvent is removed in vacuo and aqueous sodium bicarbonate added to pH 9, then extracted with ethyl acetate. The organic layer is dried (Na2SO4) and concentrated to give 1-Ethyl-2-{[2-(3-fluorophenyl)-pyrazol-3-yl]methyl}-5-[1-(methoxyimino)ethyl]-1H-benzimidazole. 1H NMR (CDCl3): δ 7.94 (d, 1H); 7.73 (dd, 1H); 7.73 (dd, 1H); 7.63 (d, 1H); 7.52 (m, 1H); 7.38-7.40 (m, 3H); 7.27 (m, 1H); 6.19 (d, 1H); 4.32 (s, 2H); 3.87-4.10 (m, 5H); 2.30 (s, 3H); 1.22 (t, 3H).

reactant | 1-Ethyl-2-{[2-(3-fluorophenyl)-pyrazol-3-yl]methyl}-5-acetyl-1H-benzimidazole | 23 mg | C(C)N1C(=NC2=C1C=CC(=C2)C(C)=O)CC=2N(N=CC2)C2=CC(=CC=C2)F | C21H19FN4O
reactant | methoxylamine hydrochloride | 15 mg, 3 eq. | Cl.O(C)N
reactant | sodium acetate | 15 mg, 3 eq. | C(C)(=O)[O-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
product | 1-Ethyl-2-{[2-(3-fluorophenyl)-pyrazol-3-yl]methyl}-5-[1-(methoxyimino)ethyl]-1H-benzimidazole | C(C)N1C(=NC2=C1C=CC(=C2)C(C)=NOC)CC=2N(N=CC2)C2=CC(=CC=C2)F | C22H22FN5O
